US04602032
(4R*,5aS*)-4,5,5a,6-tetrahydro-9,10-dihydroxy-2-methyl-4,5-di-n-propyl-dibenz[cd,f]indole
It is also to be appreciated that 9-amino-3,4-dimethoxy-6-methyl-phenanthene may be converted directly into 9-ethylamino-3,4-dimethyloxy-6-methyl-phenanthrene by heating with ethylamine in 2-ethoxyethanol.

reactant | 9-amino-3,4-dimethoxy-6-methyl-phenanthene | NC=1C2=CC=C(C=C2C=2C(=C(C=CC2C1)OC)OC)C | C17H17NO2
reactant | 9-ethylamino-3,4-dimethyloxy-6-methyl-phenanthrene | C(C)NC=1C2=CC=C(C=C2C=2C(=C(C=CC2C1)OC)OC)C | C19H21NO2
reactant | ethylamine | C(C)N | C2H7N
solvent | 2-ethoxyethanol | C(C)OCCO | C4H10O2
product | (4R*,5aS*)-4,5,5a,6-tetrahydro-9,10-dihydroxy-2-methyl-4,5-di-n-propyl-dibenz[cd,f]indole | OC=1C=CC2=C(C3=C4C([C@H](N([C@H]4C2)CCC)CCC)=CC(=C3)C)C1O | C22H27NO2
